US08034811B2
2-Fluoro-6-[(pyridin-4-ylmethyl)-amino]-benzoic acid
Prepared by a similar procedure as described for preparation 1A, starting from 2-amino-6-fluorobenzoic acid (Aldrich) and pyridine-4-carbaldehyde. 13C-NMR (DMSO-d6) δ 167.7, 162.7, 150.6, 149.5, 148.6, 133.8, 121.9, 107.3, 102.6, 101.9, 45.0.

reactant | 2-amino-6-fluorobenzoic acid | NC1=C(C(=O)O)C(=CC=C1)F | C7H6FNO2
reactant | pyridine-4-carbaldehyde | N1=CC=C(C=C1)C=O | C6H5NO
product | 2-Fluoro-6-[(pyridin-4-ylmethyl)-amino]-benzoic acid | FC1=C(C(=O)O)C(=CC=C1)NCC1=CC=NC=C1 | C13H11FN2O2
